US08022218B2
(c). 2-Chloromethyl-1-methanesulfonyl-1H-pyrrole
At 0° C. methanesulfonyl chloride (136 μl) was added dropwise to a solution of the product of example 51b (205 mg) and DIPEA (307 μl) in dichloromethane (6 ml). After stirring for 30 min, the reaction mixture was diluted with dichloromethane (30 ml) and washed with ice water (30 ml), 10% HCl (30 ml) and sat. NaHCO3. The organic layer was separated, dried (MgSO4), filtered and concentrated in vacuo. Yield: 252 mg.

reactant | methanesulfonyl chloride | 136 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIPEA | 307 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-Chloromethyl-1-methanesulfonyl-1H-pyrrole | ClCC=1N(C=CC1)S(=O)(=O)C | C6H8ClNO2S
